US07816349B2
(R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)pyrrolidin-2-one
Stir (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one (Preparation 17) (1.83 g, 3.03 mmol) and palladium hydroxide (20% on carbon) (0.200 g, 10% by weight) in 100 ml of Ethyl Acetate. Bubble hydrogen gas through the solution while stirring at room temperature for 5 minutes. Stir the mixture under the hydrogen gas atmosphere for 5 hours. Filter through celite and strip the solvent to receive 1.42 g of the title compound (91%). Mass spectrum (apci) m/z=514 (M+H).

reactant | (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one | 3.03 mmol, 1.83 g | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)[C@@H]2CC[C@H](CC2)O[Si](C(C)C)(C(C)C)C(C)C)=O)C(=C1)Cl)Cl | C33H47Cl2NO3Si
reactant | hydrogen | [H][H] | H2
solvent | Ethyl Acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 0.200 g | [OH-].[Pd+2].[OH-]
product | (R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)pyrrolidin-2-one | ClC1=C(C[C@H]2C(N(CC2)[C@@H]2CC[C@H](CC2)O[Si](C(C)C)(C(C)C)C(C)C)=O)C(=CC(=C1)O)Cl | C26H41Cl2NO3Si
